US04472305
Condensation of BocPro-DTrp-PheOH (Example 33, 658 mg.) and HDArg(Tos)-Leu-MetNH2 (630 mg.) using dicyclohexylcarbodiimide and 1-hydroxybenzotriazole gave BocPro-DTrp-Phe-DArg(Tos)-Leu-MetNH2 in 46% yield. De-t-butoxycarbonylation of BocPro-DTrp-Phe-DArg(Tos)-Leu-MetNH2 (524 mg.) using trifluoroacetic acid in dimethyl sulfide and ethanedithiol gave HPro-DTrp-Phe-DArg(Tos)-Leu-MetNH2 in 78% yield. De-p-toluenesulfonylation of HPro-DTrp-Phe-DArg(Tos)-Leu-MetNH2 (420 mg.) using liquid hydrogen fluoride with anisole gave HPro-DTrp-Phe-DArg-Leu-MetNH2, which was isolated as the amorphous off-white solid dihydrochloride acetate (2:1) salt hydrate (2:5) in 61% yield.

reactant | HPro-DTrp-Phe-DArg(Tos)-Leu-MetNH2 | 420 mg | N1[C@H](C(=O)N[C@H](CC2=CNC3=CC=CC=C23)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N[C@H](CCCNC(NS(=O)(=O)C2=CC=C(C)C=C2)=N)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N)CCCC1 | C50H69N11O8S2
reactant | hydrogen fluoride | F | FH
reactant | anisole | C1(=CC=CC=C1)OC | C7H8O
product | HPro-DTrp-Phe-DArg-Leu-MetNH2 | N1[C@H](C(=O)N[C@H](CC2=CNC3=CC=CC=C23)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N[C@H](CCCNC(N)=N)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N)CCCC1 | C43H63N11O6S
